US07060369B2
Synthesis of 1,1′-bis(dimesitylboryl)ferrocene
15.4 ml (24.7 mmol) of a 1.6 M solution of n-butyllithium in n-hexane were added dropwise to a mixture of 2.87 g=3.7 ml (24.7 mmol) of N,N,N′,N′-tetramethylethylenediamine and 4 ml of n-hexane over a period of 5 minutes while stirring at room temperature. The reaction mixture was stirred for another 20 minutes at room temperature and a solution of 1.86 g (10 mmol) of ferrocene in 70 ml of n-hexane was then added dropwise over a period of 25 minutes. The reaction mixture was stirred at room temperature for 6 hours and a solution of 6.62 g (24.7 mmol) of fluorodimesitylborane in n-hexane was then added dropwise over a period of 30 minutes. After stirring at room temperature for 16 hours the n-hexane was removed on a rotary evaporator, the red, semisolid residue was taken up in 400 ml of dichloromethane, the organic phase was admixed with 3 ml of water, stirred vigorously for 30 minutes and subsequently dried over magnesium sulfate. After the desiccant had been filtered off, the organic phase was evaporated to dryness. The red crude product (about 6.8 g, purity according to HPLC: 95–98%) was stirred once with hot n-hexane and subsequently recrystallized from ethanol until a purity of 99.8% as determined by HPLC had been reached. The yield, at a purity of 99.8% as determined by HPLC, was 4.7 g, corresponding to 68.8%.

reactant | n-butyllithium | C(CCC)[Li]
reactant | N,N,N′,N′-tetramethylethylenediamine | 24.7 mmol, 3.7 ml | CN(CCN(C)C)C | C6H16N2
reactant | ferrocene | 10 mmol, 1.86 g | [CH-]1C=CC=C1.[CH-]1C=CC=C1.[Fe+2]
reactant | fluorodimesitylborane | 24.7 mmol, 6.62 g | FB(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C | C18H22BF
solvent | n-hexane | CCCCCC | C6H14
solvent | n-hexane | 70 ml | CCCCCC | C6H14
solvent | n-hexane | 4 ml | CCCCCC | C6H14
product | 1,1′-bis(dimesitylboryl)ferrocene | C1(=C(C(=CC(=C1)C)C)B([C-]1C=CC=C1)C1=C(C=C(C=C1C)C)C)C.[C-]1(C=CC=C1)B(C1=C(C=C(C=C1C)C)C)C1=C(C=C(C=C1C)C)C.[Fe+2] | InChI=1S/2C23H26B.Fe/c2*1-15-11-17(3)22(18(4)12-15)24(21-9-7-8-10-21)23-19(5)13-16(2)14-20(23)6;/h2*7-14H,1-6H3;/q2*-1;+2
